US07723368B2
Step 1) 4-(4-Difluoromethoxy-phenylethynyl)-1-fluoro-2-methyl-benzene
The title compound was prepared in substantially the same manner as described in Example 12, step 3 starting from 1-Fluoro-4-iodo-2-methyl-benzene (0.125 g, 0.53 mmol), and 1-Difluoromethoxy-4-ethynyl-benzene (0.09 g, 0.53 mmol), and was obtained as a yellow semi solid, (0.141 g, 96%), and identified by NMR and mass spectral analyses. MS (EI+): 276 (M+).

reactant | 1-Fluoro-4-iodo-2-methyl-benzene | 0.53 mmol, 0.125 g | FC1=C(C=C(C=C1)I)C | C7H6FI
reactant | 1-Difluoromethoxy-4-ethynyl-benzene | 0.53 mmol, 0.09 g | FC(OC1=CC=C(C=C1)C#C)F | C9H6F2O
product | 4-(4-Difluoromethoxy-phenylethynyl)-1-fluoro-2-methyl-benzene | FC(OC1=CC=C(C=C1)C#CC1=CC(=C(C=C1)F)C)F | C16H11F3O
